US04125732
Methyl[p-(3-chloropropoxy)phenyl]acetate
A mixture of 47.4 g of methyl p-hydroxyphenylacetate, 28.5 ml of 3-bromo-1-chloropropane, 38.6 g of potassium carbonate and 700 ml of acetone is stirred and refluxed for 24 hours. The mixture is chilled, filtered and the solvent removed under reduced pressure. Distillation of the residue gives 52.1 g of colorless oil, bp 144°-146° C. at 0.25mm.

reactant | methyl p-hydroxyphenylacetate | 47.4 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | 3-bromo-1-chloropropane | 28.5 ml | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 38.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 700 ml | CC(=O)C | C3H6O
product | Methyl[p-(3-chloropropoxy)phenyl]acetate | 52.1 g | COC(CC1=CC=C(C=C1)OCCCCl)=O | C12H15ClO3
